US05216026
Preparation of N-(3,4-dichlorophenyl)-N'-cyclopentanesulfonylurea
The general method of procedure A was followed with cyclopentanesulfonamide (3 g), acetone (200 ml), 1N sodium hydroxide (20 ml), and 3,4-dichlorophenyl isocyanate (3.6 g) dissolved in acetone (50 ml). After two hours, 1N HCl (20 ml) was added and the resulting solid diluted with water and collected. After drying at 5° C., 5.5 g of solid product were obtained.

reactant | cyclopentanesulfonamide | 3 g | C1(CCCC1)S(=O)(=O)N | C5H11NO2S
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | 3,4-dichlorophenyl isocyanate | 3.6 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | HCl | 1N, 20 ml | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-(3,4-dichlorophenyl)-N'-cyclopentanesulfonylurea | 5.5 g | ClC=1C=C(C=CC1Cl)NC(=O)NS(=O)(=O)C1CCCC1 | C12H14Cl2N2O3S
